US06919342B2
2-tert-Butyl-4-{4-[3-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-tert-butyl-pyrimidine hydrochloride
1 g of 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-tert-butyl-pyrimidine (2.83 mmol), 0.35 g of 4-Methyl-4H-[1,2,4]triazole-3-thiol (3.04 mmol), 0.2 g of lithium-hydroxide (8.35 mmol) and a spatula tip of potassium iodide werde stirred for 72 h in 20 ml of dimethylformamide. Water and ethyl acetate were added and the organic layer was separated, dried over magnesium sulfate, filtered and the solvent was evaporated. The resdue was subjected to a column chromatography on silica gel using dichloromethane-methanol(2-10%). Fractions containing the product were combined, the solvent was evaporated and the residue re-dissolved in isopropanol. The solution was treated with HCl/isopropanol. Diisopropylethylether was added whereby an oily precipitate formed. The solvent was decanted and the remaining oil evaporated to dryness to yield 1.1 g (77%) of the title compound as a white solid.

reactant | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-tert-butyl-pyrimidine | 2.83 mmol, 1 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(C)(C)C | C19H33ClN4
reactant | 4-Methyl-4H-[1,2,4]triazole-3-thiol | 3.04 mmol, 0.35 g | CN1C(=NN=C1)S | C3H5N3S
reactant | potassium iodide | [I-].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butyl-4-{4-[3-(4-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-tert-butyl-pyrimidine hydrochloride | 1.1 g, 77% | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=CN1C)C(C)(C)C | InChI=1S/C22H37N7S.ClH/c1-21(2,3)17-15-18(25-19(24-17)22(4,5)6)29-12-10-28(11-13-29)9-8-14-30-20-26-23-16-27(20)7;/h15-16H,8-14H2,1-7H3;1H
